US07220877B2
(E)(E)(S)(S) 2-Ethoxy-3-(4-[5-(7-{5-[4-(2-ethoxy-2-ethoxycarbonyl-ethyl)-phenoxy]-3-methyl-pent-3-en-1-ynyl}-9-oxo-9H-fluoren-2-yl)-3-methyl-pent-2-en-4-ynyloxy]-phenyl}-propionic acid ethyl ester
To a solution of (E)(E) 2,7-bis-(5-hydroxy-3-methyl-pent-3-en-1-ynyl)-fluoren-9-one (179 mg, 0.49 mmol) in dry THF (10 mL) was under a atmosphere of nitrogen added triphenylphosphine (385 mg, 1.47 mmol) and (S)-2-ethoxy-3-(4-hydroxyphenyl)-propionic acid ethyl ester (467 mg, 1.96 mmol) and the mixture was cooled on ice. After stirring for 10 min. diethylazodicarboxylate (227 mg, 0.256 mmol) was added. After stirring for 1 h the reaction mixture was added water and dichloromethane. The aqueous layer was further extracted with dichloromethane (2×). The combined organic phases were dried (MgSO4), filtered and evaporated. The product was purified by column chromatography using dichloromethane/THF (10:1) as eluent to give 220 mg (55%) of the title compound.

reactant | (E)(E) 2,7-bis-(5-hydroxy-3-methyl-pent-3-en-1-ynyl)-fluoren-9-one | 0.49 mmol, 179 mg | OC/C=C(/C#CC1=CC=2C(C3=CC(=CC=C3C2C=C1)C#C\C(=C\CO)\C)=O)\C | C25H20O3
reactant | triphenylphosphine | 1.47 mmol, 385 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (S)-2-ethoxy-3-(4-hydroxyphenyl)-propionic acid ethyl ester | 1.96 mmol, 467 mg | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
reactant | diethylazodicarboxylate | 0.256 mmol, 227 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (E)(E)(S)(S) 2-Ethoxy-3-(4-[5-(7-{5-[4-(2-ethoxy-2-ethoxycarbonyl-ethyl)-phenoxy]-3-methyl-pent-3-en-1-ynyl}-9-oxo-9H-fluoren-2-yl)-3-methyl-pent-2-en-4-ynyloxy]-phenyl}-propionic acid ethyl ester | 220 mg, 55% | C(C)OC([C@H](CC1=CC=C(C=C1)OC\C=C(\C#CC1=CC=2C(C3=CC(=CC=C3C2C=C1)C#C\C(=C\COC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC)\C)=O)/C)OCC)=O | C51H52O9
